US08212041B2
7-methoxy-4-(2-(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethyl)quinoline
Ethyl 3-(7-methoxyquinolin-4-yl)propanoate (156 mg, 0.60 mmol) was combined with 1-(6-phenylpyridazin-3-yl)hydrazine (115 mg, 0.62 mmol) and pTsOH.H2O (140 mg, 0.72 mmol). The mixture was microwaved at 150° C. for 60 minutes. The residue was taken up in DMSO and purified by HPLC and neutralized to yield the desired product as an off-white solid. (ESI, pos. ion) m/z: 382.1 (M+H).

reactant | Ethyl 3-(7-methoxyquinolin-4-yl)propanoate | 0.60 mmol, 156 mg | COC1=CC=C2C(=CC=NC2=C1)CCC(=O)OCC | C15H17NO3
reactant | 1-(6-phenylpyridazin-3-yl)hydrazine | 0.62 mmol, 115 mg | C1(=CC=CC=C1)C1=CC=C(N=N1)NN | C10H10N4
reactant | pTsOH.H2O | 0.72 mmol, 140 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | DMSO | CS(=O)C | C2H6OS
product | 7-methoxy-4-(2-(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethyl)quinoline | COC1=CC=C2C(=CC=NC2=C1)CCC1=NN=C2N1N=C(C=C2)C2=CC=CC=C2 | C23H19N5O
